US07192968B2
(±)-cis-N1-[[6-(tert-Butoxycarbonyl)-5,7-dihydropyrrolo-[3,4-d]pyrimidin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine
After 6-(tert-Butoxycarbonyl)-5,7-dihydro-2-methoxycarbonylpyrrolo[3,4-d]pyrimidine was hydrolyzed with lithium hydroxide, it was reacted with (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride in a similar manner to Example 2 to obtain the title compound.

reactant | 6-(tert-Butoxycarbonyl)-5,7-dihydro-2-methoxycarbonylpyrrolo[3,4-d]pyrimidine | C(C)(C)(C)OC(=O)N1CC=2N=C(N=CC2C1)C(=O)OC | C13H17N3O4
reactant | lithium hydroxide | [OH-].[Li+]
reactant | (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)N
product | (±)-cis-N1-[[6-(tert-Butoxycarbonyl)-5,7-dihydropyrrolo-[3,4-d]pyrimidin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N1CC=2N=C(N=CC2C1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C27H31ClN6O4
